US06423704B1
Stir a mixture of methyl 4-hydroxy-2-methoxybenzoate (Danishefsky et al., J. Med. Chem. 1979, 101, 7001-7008, 0.73 g, 4 mmol), 2-chloroethyl methy ether (1 mL, 12 mmol, Aldrich Chemical Company), potassium carbonate (0.55 g, 4.8 mmol) and dimethylformamide (20 mL) at 50° C. overnight. Cool to room temperature, add 2-chloroethyl methy ether (1 mL) and potassium carbonate (1.36 g), and heat with stirring at 70° C. for six hours. Cool and dilute with ethyl acetate, wash with saturated brine, dry (Na2SO4) the organic phase, filter and concentrate the filtrate in vacuo. Vacuum dry the residue overnight at room temperature to afford 0.94 g of 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid methyl ester.

reactant | methyl 4-hydroxy-2-methoxybenzoate | 4 mmol, 0.73 g | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | 2-chloroethyl methy ether | 12 mmol, 1 mL | COCCCl | C3H7ClO
reactant | potassium carbonate | 4.8 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | 2-chloroethyl methy ether | 1 mL | COCCCl | C3H7ClO
reactant | potassium carbonate | 1.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid methyl ester | 0.94 g | COC(C1=C(C=CC(=C1)OCCOC)OC)=O | C12H16O5
